US07691850B2
b) [((3S)-1-{2-[3-Chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine
A solution of phenylmethyl[((3S)-1-{2-[3-chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (1.0 g, 2.2 mmol) in MeOH (30 mL) was treated with 40% KOH (15 mL, 107 mmol) and heated at 100° C. for 3 h. The MeOH was stripped off at reduced pressure and the residue was treated with water. The product was extracted into CHCl3 and the combined organic phases were dried (K2CO3) and filtered. Purification of silica gel provided the product as a light brown oil (0.36 g, 51%): LC/MS (ES) m/e 321 (M+H)+.

reactant | phenylmethyl[((3S)-1-{2-[3-chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 2.2 mmol, 1.0 g | C1(=CC=CC=C1)COC(NC[C@H]1CN(CC1)CCC1=C(C=NC2=CC=C(N=C12)OC)Cl)=O | C24H27ClN4O3
reactant | KOH | 107 mmol, 15 mL | [OH-].[K+]
reactant | water | O | H2O
solvent | MeOH | 30 mL | CO | CH4O
product | [((3S)-1-{2-[3-Chloro-6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]amine | 0.36 g, 51% | ClC=1C=NC2=CC=C(N=C2C1CCN1C[C@@H](CC1)CN)OC | C16H21ClN4O
